US05948820
(5) Methyl 2-acetamido-4-(4-octylphenyl)butyrate
To a solution of methyl 2-amino-4-(4-octylphenyl)butyrate hydrochloride (16 g) in methylene chloride (300 ml), triethylamine (16 ml) and acetyl chloride (3.8 ml) were added and the mixture was stirred at room temperature for an hour. Then, methylene chloride (500 ml) was further added to the mixture, the whole mixture was washed with a dilute hydrochloric acid, an aqueous sodium hydrogencarbonate solution and a saturated brine in order and dried over magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was purified by silica gel chromatography (eluent; hexane-ethyl acetate=1:2) to give the subject compound (11 g).

reactant | methyl 2-amino-4-(4-octylphenyl)butyrate hydrochloride | 16 g | Cl.NC(C(=O)OC)CCC1=CC=C(C=C1)CCCCCCCC
reactant | acetyl chloride | 3.8 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-acetamido-4-(4-octylphenyl)butyrate | 11 g | C(C)(=O)NC(C(=O)OC)CCC1=CC=C(C=C1)CCCCCCCC | C21H33NO3
